US04843070
6-Fluoro-7-(4-methyl-1-piperazinyl)-4-oxo-1-phenyl-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylic acid
Three grams of ethyl 6-fluoro-7-(4-methyl-1-piperazinyl)-4-oxo-1-phenyl-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylate was suspended in 30 ml of mixed solution of 5% potassium hydroxide/tert-butanol-water (75:25) and the suspension was heated at 50° C. for 4 hours with stirring. To this was added 30 to 40 ml of water to prepare homogeneous solution. The solution was neutralized with acetic acid and extracted with chloroform to which small amount of methanol was added. The extract was dried, concentrated, and the resulting residue was recrystallized from ethanol to give desired product. Yield: 2.23 g. M.p. 216°-217° C. (decomp.).

reactant | ethyl 6-fluoro-7-(4-methyl-1-piperazinyl)-4-oxo-1-phenyl-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylate | Three grams | FC=1C=C2C(C(=C3N(C2=CC1N1CCN(CC1)C)C(S3)C3=CC=CC=C3)C(=O)OCC)=O | C24H24FN3O3S
reactant | potassium hydroxide tert-butanol water | [OH-].[K+].C(C)(C)(C)O.O
reactant | water | 30 to 40 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Fluoro-7-(4-methyl-1-piperazinyl)-4-oxo-1-phenyl-4H-(1,3)thiazeto(3,2-a)quinoline-3-carboxylic acid | FC=1C=C2C(C(=C3N(C2=CC1N1CCN(CC1)C)C(S3)C3=CC=CC=C3)C(=O)O)=O | C22H20FN3O3S
